US07488849B2
A 100 ml three neck distilling flask was charged with magnesium (1.26 g, 0.052 mol). Vacuum was formed in a system. The magnesium was heated to stir for 30 minutes to be activated. After cooling to room temperature, nitrogen gas stream was formed in the system. Then, 5 ml diethyl ether and a few drops of dibromoethane were added. And then, 2-bromobiphenyl (11.65 g, 0.050 mol) dissolved in 15 ml diethyl ether was slowly dropped. After dropping, the reaction was refluxed for 3 hours to be a Grignard reagent. A 200 ml three neck distilling flask was charged with 2-bromofluorenone (11.7 g, 0.045 mol) and 40 ml diethyl ether. The synthesized Grignard reagent was slowly dropped to the reacted solution. After the dropping, the solution was refluxed for 2 hours and stirred at room temperature overnight. After reaction, the reacted solution was washed with saturated ammonium chloride solution twice, and a water layer was extracted with ethyl acetate twice and washed with saturated salt solution twice with an organic layer. After drying with magnesium sulfite, the reacted solution was suctioned and filtrated, and condensed to give 18.76 g 9-(2-biphenylyl)-2-bromo-9-fluorenol in a solid state in a yield of 90%.

reactant | magnesium | 0.052 mol, 1.26 g | [Mg] | Mg
reactant | 2-bromobiphenyl | 0.050 mol, 11.65 g | BrC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9Br
reactant | 2-bromofluorenone | 0.045 mol, 11.7 g | BrC=1C(C2=CC3=CC=CC=C3C2=CC1)=O | C13H7BrO
reactant | diethyl ether | 15 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 40 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 5 ml | C(C)OCC | C4H10O
catalyst | dibromoethane | a few drops | BrC(C)Br | C2H4Br2
product | 9-(2-biphenylyl)-2-bromo-9-fluorenol | 18.76 g, yield of 90% | C1(=C(C=CC=C1)C1(C2=CC=CC=C2C=2C=CC(=CC12)Br)O)C1=CC=CC=C1 | C25H17BrO
